US05331006
To thionylchoride (50 mL) was added 3-(hydroxymethyl)-1H-β-carboline (2.60 g, 13.12 mmol) and the reaction mixture was refluxed for 1 hour. After cooling down to room temperature the mixture was evaporated in the vacuum and treated with ether (300 mL). The gray solid was collected by filtration, washed with ether and dried in the vacuum to give 3-(chloromethyl)-1H-β-carboline hydrochloride (3.3 g, 100%).

reactant | 3-(hydroxymethyl)-1H-β-carboline | 13.12 mmol, 2.60 g | OCC1=NCC2=NC3=CC=CC=C3C2=C1 | C12H10N2O
reactant | thionylchoride | 50 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-(chloromethyl)-1H-β-carboline hydrochloride | 3.3 g, 100% | Cl.ClCC1=NCC2=NC3=CC=CC=C3C2=C1 | InChI=1S/C12H9ClN2.ClH/c13-6-8-5-10-9-3-1-2-4-11(9)15-12(10)7-14-8;/h1-5H,6-7H2;1H
